* GENERATED by sim/lib/pspice_native.py from ../lm2664_ti_pspice.lib -- do not edit.
* ngspice-native syntax; the TI original is untouched beside it.
*$
* LM2664
*****************************************************************************
* (C) Copyright 2020 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: LM2664
* Date: 1FEB2020
* Model Type: TRANSIENT 
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: LM2661/3/4 Evaluation Board
* EVM Users Guide: SNVA014C-NOVEMBER 1999-REVISED APRIL 2013
* Datasheet: SNVS005E-NOVEMBER 1999-REVISED DECEMBER 2014 
* Topologies Supported: Chargepump
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
*
* Model Usage Notes:
*
* 1. The following features have been modeled
*      a. Startup
*      b. Oscillator frequency v/s VIN
*      c. Quiescent Current v/s VIN
*      c. Shutdown Current
* 2. Temperature effects are not modeled. 
* 3. Ground Pins have been tied to 0V internally and hence model does not support Inverting 
*    topologies.
*
*****************************************************************************
.SUBCKT LM2664_TRANS CAP+ CAP- GND OUT SD_N VIN  
X_U38         N17657603 N17658303 BUF_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0   VTHRESH=0.5 DELAY=10n
E_ABM4         N16872995 0 VALUE={ ternary_fcn(V(N17647578)>0.5,1,0)    }
X_U40         N17657603 N17658303 CLK_PHASE2 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0   VTHRESH=500E-3
X_U30         SD_N N16760455 N17605788 N17647578 COMPHYS_BASIC_GEN PARAMS:   VDD=1 VSS=0 VTHRESH=0.5
X_S19    CLK_PHASE2 0 N17637829 OUT LM2664_S19 
X_U37         N17657603 N17657968 INV_BASIC_GEN PARAMS: VDD=1 VSS=0   VTHRESH=500E-3
X_U29         OUT 0 d_d PARAMS:
G_ABMII4         VIN 0 VALUE={ ternary_fcn(V(EN_OK)<0.5,V(ISHDN),V(QUIES))    }
V_V3         N17637715 CAP- 0Vdc
R_R5         N16872995 EN_OK  5 
X_S18    CLK_PHASE2 0 N17637612 0 LM2664_S18 
E_ABM13         N16760455 0 VALUE={ 0.4*V(VIN)    }
E_ABM11         QUIES 0 VALUE={ 66.2u*V(VIN)+35u    }
R_R1         0 OUT  170k 
X_U31         EN_OK N17649746 INV_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
X_U39         N17657968 N17658790 BUF_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0   VTHRESH=0.5 DELAY=10n
X_U41         N17657968 N17658790 CLK_PHASE1 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0   VTHRESH=500E-3
X_U42         EN_OK CLK N17657603 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0   VTHRESH=500E-3
E_ABM12         ISHDN 0 VALUE={ 1u    }
V_V1         N17638318 CAP+ 0Vdc
V_V2         CAP- N17637829 0Vdc
R_R3         GND 0  1m  
X_S20    CLK_PHASE1 0 N17637715 0 LM2664_S20 
V_V4         CAP+ N17637612 0Vdc
X_U32         N16759799 N16759705 INV_BASIC_GEN PARAMS: VDD=1 VSS=0   VTHRESH=500E-3
X_U33         N16759799 N16759705 CLK N16759875 SRLATCHRHP_BASIC_GEN PARAMS:   VDD=1 VSS=0 VTHRESH=0.5
C_C2         0 EN_OK  1n 
X_S17    CLK_PHASE1 0 VIN N17638318 LM2664_S17 
X_U_osc_U29         U_osc_N16690266 U_osc_N16690502 d_d
X_U_osc_U134         N17649746 U_osc_N16690380 U_osc_N16690352 OR2_BASIC_GEN   PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
V_U_osc_V46         U_osc_N16690364 0 2.5
X_U_osc_U135         VIN U_osc_N16690808 freq_Current
G_U_osc_G1         U_osc_N16690502 U_osc_N16690266 U_osc_N16690808 0 1
X_U_osc_S26    U_osc_N16690352 0 U_osc_N16690266 0 Oscilator_U_osc_S26 
X_U_osc_U137         U_osc_N16690266 U_osc_N16690364 U_osc_MUXCLK   COMP_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
V_U_osc_V45         U_osc_N16690502 0 5
X_U_osc_U136         N16759799 U_osc_N16690232 U_osc_MUXCLK U_osc_N16690232 0 0   DFFSR_RHPBASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
X_U_osc_U132         U_osc_N16690334 U_osc_N16690380 INV_DELAY_BASIC_GEN   PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY=5n
C_U_osc_C79         U_osc_N16690266 0  20p  
X_U_osc_U133         U_osc_MUXCLK U_osc_N16690334 INV_DELAY_BASIC_GEN PARAMS:   VDD=1 VSS=0 VTHRESH=0.5 DELAY=5n
E_ABM14         N17605788 0 VALUE={ 0.2*V(VIN)    }
.IC         V(U_osc_N16690266 )=0
.IC         V(U_osc_MUXCLK )=0
.IC         V(U_osc_N16690334 )=1
.ENDS LM2664_TRANS
*$
.subckt LM2664_S19 1 2 3 4  
aS_S19 %gd(1 2) %gd(3 4) a_S19
RS_S19         1 2 0.1G
.model a_S19 pswitch(cntl_on=0.8 cntl_off=0.2 r_on=1.25 r_off=1e9 log=TRUE)
.ends LM2664_S19
*$
.subckt LM2664_S18 1 2 3 4  
aS_S18 %gd(1 2) %gd(3 4) a_S18
RS_S18         1 2 0.1G
.model a_S18 pswitch(cntl_on=0.8 cntl_off=0.2 r_on=1.25 r_off=1e9 log=TRUE)
.ends LM2664_S18
*$
.subckt LM2664_S20 1 2 3 4  
aS_S20 %gd(1 2) %gd(3 4) a_S20
RS_S20         1 2 0.1G
.model a_S20 pswitch(cntl_on=0.8 cntl_off=0.2 r_on=1.25 r_off=1e9 log=TRUE)
.ends LM2664_S20
*$
.subckt LM2664_S17 1 2 3 4  
aS_S17 %gd(1 2) %gd(3 4) a_S17
RS_S17         1 2 0.1G
.model a_S17 pswitch(cntl_on=0.8 cntl_off=0.2 r_on=1.25 r_off=1e9 log=TRUE)
.ends LM2664_S17
*$
.subckt Oscilator_U_osc_S26 1 2 3 4  
aS_U_osc_S26 %gd(1 2) %gd(3 4) a_U_osc_S26
RS_U_osc_S26         1 2 1G
.model a_U_osc_S26 pswitch(cntl_on=0.8 cntl_off=0.2 r_on=1.0 r_off=100e6 log=TRUE)
.ends Oscilator_U_osc_S26
*$
.subckt d_d 1 2
d1 1 2 dd
.model dd d  is=1e-015  n=0.01  tt=1e-011
.ends d_d
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE={ ternary_fcn( V(1) > VTHRESH,-V(HYS),0) }
EOUT OUT 0 VALUE={ ternary_fcn( V(INP2)>V(INM1), VDD ,VSS) }
R1 OUT 1 1
C1 1 0 5.0n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE={ternary_fcn(V(A) > VTHRESH  &&    V(B) > VTHRESH,VDD,VSS)}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE={ternary_fcn(V(A) > VTHRESH ,   VSS,VDD)}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
E_ABM Yint 0 VALUE={ternary_fcn(V(INP) >   V(INM), VDD,VSS)}
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN
*$
.SUBCKT freq_Current  Vin  Vo             
E_Current  Vo 0 VALUE={ternary_fcn(V(Vin) < 1.8, 5u ,  ternary_fcn(V(Vin) < 2 && V(Vin) > 1.8, ((2.8u)*V(Vin)-60n),  ternary_fcn(V(Vin) < 5.2 && V(Vin) > 2, ((813.85n)*V(Vin) +3.94u),  ternary_fcn(V(Vin) > 5.2 , ((270.19n)*V(Vin)+6.75u ), 5u ) ) ) )}
.ENDS freq_Current
*$
.SUBCKT DFFSR_RHPBASIC_GEN Q QB CLK D R S PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
X1 CLK CLKdel INV_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 15n
X2 CLK CLKdel CLKint AND2_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}  
GQ 0 Qint VALUE={ternary_fcn(V(R) > VTHRESH,-5,ternary_fcn(V(S) > VTHRESH,5, ternary_fcn(V(CLKint)> VTHRESH,   ternary_fcn(V(D)> VTHRESH,5,-5),0)))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 20n
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE={ternary_fcn( V(Q) > VTHRESH, VSS,VDD)}
RQb Qbr Qb 1 
Cdummy1 Q 0 1nF 
Cdummy2 QB 0 1nF 
.IC V(Qint)={VSS}
.ENDS DFFSR_RHPBASIC_GEN
*$
.SUBCKT INV_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n 
E_ABMGATE1    YINT1 0 VALUE={ternary_fcn(V(A) > VTHRESH ,   VDD,VSS)}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE={ternary_fcn(V(YINT2) > VTHRESH ,   VSS,VDD)}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS INV_DELAY_BASIC_GEN
*$
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE={ternary_fcn(V(A) > VTHRESH  ||    V(B) > VTHRESH,VDD,VSS)}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.SUBCKT BUF_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n 
E_ABMGATE1    YINT1 0 VALUE={ternary_fcn(V(A) > VTHRESH ,   VDD,VSS)}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE={ternary_fcn(V(YINT2) > VTHRESH ,   VDD,VSS)}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS BUF_DELAY_BASIC_GEN
*$
.model NMOS_SIMPLE NMOS  VTO     = 0  KP      = 1e6  LAMBDA  = 0.001
*$
.SUBCKT SRLATCHRHP_BASIC_GEN S R Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
GQ 0 Qint VALUE={ternary_fcn(V(R) > VTHRESH,-5,ternary_fcn(V(S)>VTHRESH,5, 0))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE={ternary_fcn( V(Q) > VTHRESH, VSS,VDD)}
RQb Qbr QB 1 
Cdummy1 Q 0 1n 
Cdummy2 QB 0 1n
.IC V(Qint)={VSS}
.ENDS SRLATCHRHP_BASIC_GEN
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE={ternary_fcn(V(A) > VTHRESH ,   VDD,VSS)}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$
.MODEL D_D1 D( IS=1e-15 N=.1  )
*$
.SUBCKT NOR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE={ternary_fcn(V(A) > VTHRESH  ||    V(B) > VTHRESH,VSS,VDD)}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NOR2_BASIC_GEN
*$
.SUBCKT CESR IN OUT  PARAMs:  C=100u ESR=0.01 X=2 IC=0
C	IN 1  {C*X} IC={IC}
RESR	1 OUT {ESR/X}
.ENDS CESR
*$